US08106091B2
Stage 1: N-(4-Bromophenyl)-2,2,2-trifluoroacetamide
To an ice cold solution of 4-bromoaniline (3 g, 17.44 mmol) in DCM (40 ml) was added triethylamine (3.53 g, 34.9 mmol) followed by trifluoroacetic anhydride (2.67 ml, 19.18 mmol) by dropwise addition. After stirring at this temperature for 30 minutes, the reaction was allowed to warm to RT and stirred for a further 1 hr. The mixture was then poured onto sat. NaHCO3, the layers separated and the aqueous layer extracted with DCM. The combined organics extracts were washed with water and brine, then dried (MgSO4), filtered and evaporated in vacuo to give the product as an off-white solid (4.6 g, 17 mmol, 98% yield). LCMS purity 95%: m/z 269 [M+H]+.

reactant | 4-bromoaniline | 17.44 mmol, 3 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | triethylamine | 34.9 mmol, 3.53 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 19.18 mmol, 2.67 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Bromophenyl)-2,2,2-trifluoroacetamide | 17 mmol, 4.6 g, 98% yield | BrC1=CC=C(C=C1)NC(C(F)(F)F)=O | C8H5BrF3NO
